US06107307
A mixture of 4.0 gm (13.0 mMol) 3-(naphth-2-yl)-8-ethoxycarbonyl-8-azabicyclo[3.2.1]oct-2-ene, 0.5 gm 10% palladium on carbon and 8.22 gm (130 mMol) ammonium formate in 100 mL ethanol was stirred at room temperature for 16 hours and then at reflux for 1.5 hours. The reaction mixture was filtered and the filtrate concentrated under reduced pressure. The residue was subjected to silica gel chromatography. Fractions containing product were combined and concentrated under reduced pressure to provide 2.83 gm (70.4%) of 3-(naphth-2-yl)-8-ethoxycarbonyl-8-azabicyclo-[3.2.1]octane.

reactant | 3-(naphth-2-yl)-8-ethoxycarbonyl-8-azabicyclo[3.2.1]oct-2-ene | 13.0 mMol, 4.0 gm | C1=C(C=CC2=CC=CC=C12)C1=CC2CCC(C1)N2C(=O)OCC | C20H21NO2
reactant | ammonium formate | 130 mMol, 8.22 gm | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 0.5 gm | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-(naphth-2-yl)-8-ethoxycarbonyl-8-azabicyclo-[3.2.1]octane | 2.83 gm, 70.4% | C1=C(C=CC2=CC=CC=C12)C1CC2CCC(C1)N2C(=O)OCC | C20H23NO2
